US08133910B2
5-Isobutyl-thiophene-2-carboxylic acid
To a solution of 2-thiophene-carboxylic acid (4.16 g, 32.1 mmol) in THF (200 mL) tert. butyllithium (49 mL, 1.7 M solution in pentane, 83.6 mmol) is slowly added at −78° C. The mixture is stirred at −78° C. for 30 min before isobutylbromide (22.7 g, 160.7 mmol) is carefully added. The mixture is stirred at −78° C. for 5 h, then at rt for 16 h. The reaction is quenched by the addition of water (400 mL). The mixture is acidified and extracted with EA. The org. extract is dried over MgSO4, filtered and evaporated. The crude product is purified by MPLC on reverse phase silica gel to give the title compound (1.67 g) as a brownish oil; LC-MS: tR=0.91 min, 1H NMR (CDCl3): δ 0.96 (d, J=6.7 Hz, 6H), 1.94 (hept, J=6.7 Hz, 1H), 2.72 (d, J=7.0 Hz, 2H), 6.80 (d, J=3.8 Hz, 1H), 7.73 (d, J=3.8 Hz, 1H).

reactant | 2-thiophene-carboxylic acid | 32.1 mmol, 4.16 g | S1C(=CC=C1)C(=O)O | C5H4O2S
reactant | THF | 83.6 mmol, 1.7 M, 200 mL | C1CCOC1 | C4H8O
reactant | isobutylbromide | 160.7 mmol, 22.7 g | C(C(C)C)Br | C4H9Br
product | 5-Isobutyl-thiophene-2-carboxylic acid | 1.67 g | C(C(C)C)C1=CC=C(S1)C(=O)O | C9H12O2S
